US04241079
3-Iminophenylmethyl-4-(3-carbomethoxy-S-allylisothioureido)benzophenone
To a suspension of 3-iminophenylmethyl-4-(3-carbomethoxythioureido)benzophenone (2.09 g.; 0.005 mole) in acetone (40 ml.) and water (6.0 ml.) is added an aqueous sodium hydroxide solution (50% aqueous; 0.4 g.). The suspension is stirred at room temperature for one hour and then allyl bromide (0.6 g.; 0.005 mole) is added and the solution is stirred at room temperature over the weekend. The precipitate which forms is collected by filtration and then dried to afford 1.3 g. of 3-iminophenylmethyl)-4-(3-carbomethoxy-S-allylisothioureido)benzophenone, m.p. 125°-127° C.

reactant | 3-iminophenylmethyl-4-(3-carbomethoxythioureido)benzophenone | 0.005 mole, 2.09 g | N=C1C(C(C(=O)C2=CC=CC=C2)=CC=C1NC(=S)NC(=O)OC)CC1=CC=CC=C1 | C23H21N3O3S
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | allyl bromide | 0.005 mole, 0.6 g | C(C=C)Br | C3H5Br
reactant | 4-(3-carbomethoxy-S-allylisothioureido)benzophenone | C(=O)(OC)N=C(NC1=CC=C(C(=O)C2=CC=CC=C2)C=C1)SCC=C | C19H18N2O3S
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 6.0 ml | O | H2O
product | 3-Iminophenylmethyl-4-(3-carbomethoxy-S-allylisothioureido)benzophenone | N=C1C(C(C(=O)C2=CC=CC=C2)=CC=C1NC(SCC=C)=NC(=O)OC)CC1=CC=CC=C1 | C26H25N3O3S
